US05081145
3-[4,6-dichloro-1-(4-chlorobenzyl)-3-methyl-1H-indol-2-yl] propanoic acid
Following the method of Example 2, but using 1-[1-(chlorophenyl)methyl-1-(3,5-dichlorophenyl) hydrazine hydrochloride and methyl 4-oxohexanoate as the starting materials, in t-butanol as solvent, the title compound was prepared.

reactant | 1-(chlorophenyl)methyl-1-(3,5-dichlorophenyl) hydrazine hydrochloride | Cl.ClC1=C(C=CC=C1)CN(N)C1=CC(=CC(=C1)Cl)Cl
reactant | methyl 4-oxohexanoate | O=C(CCC(=O)OC)CC | C7H12O3
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | 3-[4,6-dichloro-1-(4-chlorobenzyl)-3-methyl-1H-indol-2-yl] propanoic acid | ClC1=C2C(=C(N(C2=CC(=C1)Cl)CC1=CC=C(C=C1)Cl)CCC(=O)O)C | C19H16Cl3NO2
